US04017629
4.5 g of o-nitrobenzaldehyde, 6.3 g of 3-aminocrotonic acid tert.-butyl ester and 4.1 g of methylsulphonylacetone are stirred in 30 ml of hexamethylphosphoric acid triamide for 8 hours under nitrogen at a bath temperature of 110° C. The mixture is cooled and dissolved in 200 ml of ethyl acetate and the solution is treated with a mixture of 200 ml of water, 30 ml of methanol and 30 ml of sodium chloride solution. The aqueous phase is separated off and the organic phase is washed three times with 50 ml of water, twice with 50 ml of 1 N hydrochloric acid, twice with 50 ml of sodium bicarbonate and once with 50 ml of 2 N sodium carbonate solution. The organic phase is separated off and dried. The residue is recrystallised from isopropanol. 2,6-Dimethyl-3-carbotert.-butoxy-4-(2-nitrophenyl)-5-methylsulphonyl-1,4-dihydro pyridine, which is thus obtained, melts at 152°-155° C.

reactant | o-nitrobenzaldehyde | 4.5 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 3-aminocrotonic acid tert.-butyl ester | 6.3 g | C(C)(C)(C)OC(\C=C(\C)/N)=O | C8H15NO2
reactant | methylsulphonylacetone | 4.1 g | CS(=O)(=O)CC(C)=O | C4H8O3S
reactant | sodium chloride | 30 ml | [Cl-].[Na+]
solvent | hexamethylphosphoric acid triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | 2,6-Dimethyl-3-carbotert.-butoxy-4-(2-nitrophenyl)-5-methylsulphonyl-1,4-dihydro pyridine | CC=1NC(=C(C(C1C(=O)OC(C)(C)C)C1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C)C | C19H24N2O6S
